US08247430B2
2,2,2-Trifluoro-N-[1-(4-nitro-phenyl)-cyclopropylmethyl]-acetamide
Trifluoroacetic anhydride (5.26 ml, 36.9 mmol) was added to a mixture of C-[1-(4-nitro-phenyl)-cyclopropyl]-methylamine (2.37 g, 12.3 mmol) and triethyl amine (8.6 ml, 61.5 mmol) in 50 ml of CH2Cl2 at RT. The resulting mixture was stirred for 2 h. The volatiles were removed under reduced pressure and the residue was partitioned between EtOAc and aqueous NaHCO3. The organic layer was washed with brine, dried with MgSO4, filtered, and condensed. The crude compound was purified by flash column chromatography (10 to 20% of EtOAc in hexanes), and the titled compound was obtained as an off-white solid.

reactant | Trifluoroacetic anhydride | 36.9 mmol, 5.26 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | C-[1-(4-nitro-phenyl)-cyclopropyl]-methylamine | 12.3 mmol, 2.37 g | [N+](=O)([O-])C1=CC=C(C=C1)C1(CC1)CN | C10H12N2O2
reactant | triethyl amine | 61.5 mmol, 8.6 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | 2,2,2-Trifluoro-N-[1-(4-nitro-phenyl)-cyclopropylmethyl]-acetamide | FC(C(=O)NCC1(CC1)C1=CC=C(C=C1)[N+](=O)[O-])(F)F | C12H11F3N2O3
